* Z:\home\jkmunson\workspace\sp24\EENG_331_LAB2\part1_b.asc
VGS gate 0 10
VDS drain 0 10
M1 drain gate 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jkmunson\AppData\Local\LTspice\lib\cmp\standard.mos
.model nmos NMOS (kp=100u, vt0=0.5, l=0.18, w=.36u)
.dc VGS 0 10 0.01
.backanno
.end
